* Source: ALIGN-analoglayout/ALIGN-public (Apache License 2.0)
* https://github.com/ALIGN-analoglayout/ALIGN-public/tree/master/examples/current_mirror_ota
.subckt current_mirror_ota id vinn vinp vss vdd voutp vbiasnd
m17 net16 vinn net24 vss nmos_rvt w=27e-9 l=20e-9 nfin=7 nf=4
m16 net24 id vss vss nmos_rvt w=27e-9 l=20e-9 nfin=5 nf=2
m15 net27 vinp net24 vss nmos_rvt w=27e-9 l=20e-9 nfin=7 nf=4
m14 id id vss vss nmos_rvt w=27e-9 l=20e-9 nfin=5 nf=2
m11 vbiasnd vbiasnd vss vss nmos_rvt w=27e-9 l=20e-9 nfin=12 nf=2
m10 voutp vbiasnd vss vss nmos_rvt w=27e-9 l=20e-9 nfin=12 nf=2
m21 net16 net16 vdd vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=6
m20 m20stack net16 vdd vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=24
m20s vbiasnd net16 m20stack vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=24
m19 net27 net27 vdd vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=6
m18 m18stack net27 vdd vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=24
m18s voutp net27 m18stack vdd pmos_rvt w=27e-9 l=20e-9 nfin=10 nf=24
.ends current_mirror_ota
